US09108969B2
Step A: Preparation of Ethyl 2-(2-(3,5-Bis(trifluoromethyl)benzyloxy)-6,7,8,9-tetrahydropyrido[1,2-a]indol-9-yl)acetate
To a mixture of ethyl 2-(2-hydroxy-6,7,8,9-tetrahydropyrido[1,2-a]indol-9-yl)acetate (95 mg, 0.348 mmol) and cesium carbonate (170 mg, 0.521 mmol) in DMF (2 mL) was added 1-(bromomethyl)-3,5-bis(trifluoromethyl)benzene (128 mg, 0.417 mmol). The reaction mixture was heated at 75° C. for 15 h and cooled down. The solid was filtered and washed with ethyl acetate. The combined solvent was evaporated, and the residue was purified by silica gel column chromatography to give the title compound (145 mg). LCMS m/z=500.2 [M+H]+; 1H NMR (400 MHz, CDCl3) δ ppm 1.30 (t, J=7.1 Hz, 3H), 1.51-1.61 (m, 1H), 2.00-2.10 (m, 1H), 2.10-2.24 (m, 2H), 2.55 (dd, J=15.6, 8.6 Hz, 1H), 2.93 (dd, J=15.6, 5.4 Hz, 1H), 3.45-3.54 (m, 1H), 3.85-3.94 (m, 1H), 4.10-4.17 (m, 1H), 4.22 (q, J=7.1 Hz, 2H), 5.19 (s, 2H), 6.18 (s, 1H), 6.90 (dd, J=8.8, 2.4 Hz, 1H), 7.09 (d, J=2.4 Hz, 1H), 7.18 (d, J=8.7 Hz, 1H), 7.83 (s, 1H), 7.94 (s, 2H).

reactant | ethyl 2-(2-hydroxy-6,7,8,9-tetrahydropyrido[1,2-a]indol-9-yl)acetate | 0.348 mmol, 95 mg | OC=1C=C2C=C3N(C2=CC1)CCCC3CC(=O)OCC | C16H19NO3
reactant | cesium carbonate | 0.521 mmol, 170 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 1-(bromomethyl)-3,5-bis(trifluoromethyl)benzene | 0.417 mmol, 128 mg | BrCC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F | C9H5BrF6
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | Ethyl 2-(2-(3,5-Bis(trifluoromethyl)benzyloxy)-6,7,8,9-tetrahydropyrido[1,2-a]indol-9-yl)acetate | 145 mg | FC(C=1C=C(COC=2C=C3C=C4N(C3=CC2)CCCC4CC(=O)OCC)C=C(C1)C(F)(F)F)(F)F | C25H23F6NO3
